US07691843B2
4-Bromo-1-methylthio-2-trifluoromethoxybenzene was prepared from 4-bromo-2-trifluoromethoxybenzenethiol and methyl iodide by following Method C. The reaction was conducted at room temperature overnight. The crude residue was chromatographed in 20% EtOAc/Hexanes to afford 4-bromo-1-methylthio-2-trifluoromethoxybenzene (85% yield).

reactant | 4-bromo-2-trifluoromethoxybenzenethiol | BrC1=CC(=C(C=C1)S)OC(F)(F)F | C7H4BrF3OS
reactant | methyl iodide | CI | CH3I
product | 4-bromo-1-methylthio-2-trifluoromethoxybenzene | 85% yield | BrC1=CC(=C(C=C1)SC)OC(F)(F)F | C8H6BrF3OS
